US07834039B2
A 25 mL microwave vial equipped with a stirring bar was charged with 4-cyanobenzoyl chloride (0.4 g, 2.416 mmol), (Z)-3-bromo-N′-hydroxy-4-isopropoxybenzimidamide (0.5 g, 1.831 mmol) and pyridine (15 ml) to give an orange solution. The vessel was capped and the reaction heated at 200° C. for 20 min under microwave irradiation (Biotage Optimizer, 300 W). The solution was cooled, the reaction mixture was partitioned between aqueous HCl (10%, 150 mL) and DCM (40 mL) mixture, the DCM layer was drained, and the aqueous layer was extracted by DCM (2×20 mL). The combined DCM layers were washed by water (2×20 mL) and concentrated to afford white solid, which was purified via silica gel chromatography (40 g, 40% EtOAc:Heptane) to afford 4-(3-(3-bromo-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)benzonitrile (0.638 g, 1.660 mmol, 91% yield) as white solid. LC/MS (Method c) Rt=3.17 min.; MS m/z: 386.19 (M+H)+. 1H NMR (400 MHz, Solvent d-DMSO) ppm 8.40-8.32 (m, 2H), 8.23 (d, J=2.13 Hz, 1H), 8.14 (dd, J=8.14, 0.61 Hz, 2H), 8.05 (dd, J=8.65, 2.15 Hz, 1H), 7.36 (d, J=9.12 Hz, 1H), 4.89-4.77 (m, 1H), 1.35 (d, J=6.03 Hz, 6H).

reactant | 4-cyanobenzoyl chloride | 2.416 mmol, 0.4 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | (Z)-3-bromo-N′-hydroxy-4-isopropoxybenzimidamide | 1.831 mmol, 0.5 g | BrC=1C=C(/C(/N)=N/O)C=CC1OC(C)C | C10H13BrN2O2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 4-(3-(3-bromo-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)benzonitrile | 1.660 mmol, 0.638 g, 91% yield | BrC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(C#N)C=C1 | C18H14BrN3O2
